US04717416
22.6 g of 3,7-dichloroquinoline-8-carbaldehyde were dissolved in 300 parts of ethanol, 10.6 g of sodium carbonate and 6.9 g of hydroxylammonium chloride were added to this solution, and the suspension was refluxed for 1 hour. Thereafter, 1,000 g of water were added, and the precipitated solid was filtered off and dried to give 23 g (96% of theory) of 3,7-dichloro-8-hydroxyliminoquinoline of melting point 202° C.

reactant | 3,7-dichloroquinoline-8-carbaldehyde | 22.6 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=O | C10H5Cl2NO
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylammonium chloride | 6.9 g | [Cl-].O[NH3+]
reactant | water | 1,000 g | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3,7-dichloro-8-hydroxyliminoquinoline | 23 g, 96% | ClC=1C=NC=2C(C(C=CC2C1)Cl)=NO | C9H6Cl2N2O
